US08877772B2
Preparation of 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (Intermediate A)
To a stirred solution of 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine (0.70 g, 2.2 mmol) in 15 mL of anhydrous THF cooled to 0° C. with an ice bath was added NaH [60% dispersion in mineral oil] (0.13 g, 3.3 mmol). The reaction mixture was stirred for 20 min at 0° C., after which p-toluenesulfonyl chloride (0.47 g, 2.4 mmol) was added. The resulting mixture was stirred at 0° C. for 1.5 hr, after which cold 0.5 M HCl (20 mL) was added. The mixture was partitioned between EtOAc and 0.5 M HCl, after which the organic layer was separated, dried over MgSO4, filtered, and evaporated in vacuo to yield a residue that was triturated with 20% CH2Cl2 in hexanes to yield the title compound (0.84 g, 81%) as a light yellow powder. 1H NMR (DMSO-d6, 300 MHz) δ 8.51 (d, J=2.1 Hz, 1H), 8.22 (s, 1H), 8.02 (d, J=1.2 Hz, 1H), 8.00 (d, J=5.1 Hz, 2H), 7.44 (dd, J=8.7 Hz, 0.6 Hz, 2H), 2.35 (s, 3H); MS ESI (m/z): 477.0/479.0 (M+1)+, calc. 476.

reactant | 5-bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine | 2.2 mmol, 0.70 g | BrC=1C=C2C(=NC1)NC=C2I | C7H4BrIN2
reactant | NaH | 3.3 mmol, 0.13 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 2.4 mmol, 0.47 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 0.5 M, 20 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.84 g, 81% | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C14H10BrIN2O2S
